US06294558B1
2-[4-(2-Furyl)phenyl]-4-methyl-1-(4-sulfamoylphenyl)-1H-pyrrole. (step 3)
To a suspension of α-4-sulfamoylanilino-α-[4-(2-furyl)phenyl]acetnitrile (0.28 g, 0.79 mmol) in anhydrous THF (3 mL) at −70° C. was added methacrolein (0.061 g, 0.87 mmol), and then dropwise lithium bis(trimethylsilyl)amide (0.83 mL, 1.0 M solution in hexane, 0.83 mmol). The reaction mixture was stirred at −60° C. to −65° C. for 1 hour, and then the temperature of the reaction mixture was allowed to return to room temperature, and the mixture was stirred for a further 2 hours. The reaction mixture was added a saturated aqueous solution of NH4Cl (10 mL) and the whole was extracted with ethyl acetate (10 mL×2). The organic layer was washed with water, dried over Na2SO4, and concentrated in vacuo. The residue was redissolved in toluene (5 mL) and heated at reflux temperature for 1 hour. The reaction mixture was concentrated in vacuo. The residue was purified by thin-layer chromatography eluting with hexane/ethyl acetate (2/1). The resulting solid was recrystallized from CH2Cl2-hexane to give the title compound (0.012 g, 5.6% yield).

reactant | α-4-sulfamoylanilino-α-[4-(2-furyl)phenyl]acetnitrile | 0.79 mmol, 0.28 g | S(N)(=O)(=O)C1=CC=C(NC(C#N)C2=CC=C(C=C2)C=2OC=CC2)C=C1 | C18H15N3O3S
reactant | methacrolein | 0.87 mmol, 0.061 g | O=CC(C)=C | C4H6O
reactant | lithium bis(trimethylsilyl)amide | 0.83 mmol, 1.0 M, 0.83 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-[4-(2-Furyl)phenyl]-4-methyl-1-(4-sulfamoylphenyl)-1H-pyrrole | 0.012 g, 5.6% yield | O1C(=CC=C1)C1=CC=C(C=C1)C=1N(C=C(C1)C)C1=CC=C(C=C1)S(N)(=O)=O | C21H18N2O3S
